US05128448
To a solution of benzo[b]thiophene-2-propanoic acid ethyl ester (3.52 g, 15.0 mmol) in MeOH (200 mL) was added at 0° C. 10% KOH/MeOH (70 mL, 144 mmol) and H2O (30 mL). The solution was stirred at 25° C. for 6 h then kept in a refrigerator (0° C.) overnight. After addition of H2O (20 mL), the mixture was concentrated under reduced pressure to remove most of MeOH then acidified carefully with 3N HCl to pH 2. The resultant turbid mixture was extracted with Et2O (3×500 mL). The combined extracts were washed with brine (200 mL), dried (MgSO4), and concentrated to dryness to give benzo[b]thiophene-2-propanoic acid (3.04 g, 14.7 mmol) in 98% yield as a solid, mp 140°-142° C.

reactant | benzo[b]thiophene-2-propanoic acid ethyl ester | 15.0 mmol, 3.52 g | C(C)OC(CCC1=CC2=C(S1)C=CC=C2)=O | C13H14O2S
reactant | KOH MeOH | 144 mmol, 70 mL | [OH-].[K+].CO
reactant | H2O | 30 mL | O | H2O
reactant | H2O | 20 mL | O | H2O
solvent | MeOH | 200 mL | CO | CH4O
product | benzo[b]thiophene-2-propanoic acid | 14.7 mmol, 3.04 g, 98% yield | S1C2=C(C=C1CCC(=O)O)C=CC=C2 | C11H10O2S
